datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[O:14]>>[C:0](#[C:1][c:2]1[c:3][c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[H:9][O:14],34.0893
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10]([C:11]([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[C:11]([C:10]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])[H:6],33.3883
[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10].[H:11]>>[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:8])[C:3]([H:9])=[C:4]1[H:10].[H:7][H:11],9.45355
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19])[H:5],10.6692
[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18]>>[C:0]([C:1](=[C:2][C:3]([H:7])([H:8])[H:9])[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18])([H:4])([H:5])[H:6],55.187
[C:0]([O:1][N:2]=[O:3])([H:4])([H:5])[H:6].[H:7]>>[C:0]([O:1][H:7])([H:4])([H:5])[H:6].[N:2]=[O:3],7.9496
[O:0]([O:1][H:3])[H:2].[S:4]>>[H:2][S:4].[O:0][O:1][H:3],52.797896
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:6])([H:4])[H:5].[C:13]([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])[H:5].[H:6][C:13]([H:14])([H:15])[H:16],0.0
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9]>>[C:0]([H:7])([H:8])[H:9].[c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14],414.892
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:18])([H:19])[H:20])([C:12]([O:13][H:22])[H:21])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:12]([C:10]([C:9]([H:14])([H:15])[H:16])([C:11]([H:18])([H:19])[H:20])[H:17])([O:13][H:22])[H:21],15.22976
[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[C:6]([O:7])([H:8])([H:9])[H:10]>>[C:0]([C:1](=[O:2])[O:7][C:6]([H:8])([H:9])[H:10])([H:3])([H:4])[H:5],0.0
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](=[C:17][C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:17](=[C:16]([H:19])[H:20])[C:18]([H:21])([H:22])[H:23])[H:8],-8.24248
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17]([H:28])([H:29])[H:30])=[C:18]([c:19]1[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]([H:35])[c:24]1[H:36])[H:31])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:18]([C:16]([C:15]([H:25])([H:26])[H:27])[C:17]([H:28])([H:29])[H:30])([c:19]1[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]([H:35])[c:24]1[H:36])[H:31])[H:8])([H:6])[H:7],77.404
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:19])[H:18])([H:16])[H:17])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])=[C:6]([H:19])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:14])[H:13])([H:11])[H:12],115.98
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[S:9])[H:10]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:8](=[S:9])[H:10],68.1992
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[H:9][H:10]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:10])[H:6])([H:4])[H:5].[H:9],103.554
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])[H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])([H:4])[H:5],73.5129
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[H:14])[H:8])([H:6])[H:7],15.8155
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](#[C:9][C:10]([H:12])[H:13])[H:11]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:10]([C:9]#[C:8][H:11])([H:12])[H:13],25.104
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8]([H:17])([H:18])[H:19])[H:16])[H:15])[H:14])([H:12])[H:13])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([C:8]([H:17])([H:18])[H:19])[H:16])[H:9],102.173
